US07691867B2
A mixture of 7-hydroxy-6-methoxyquinazolin-4-(3H)-one (8.0 g, 41.6 mmol), pyridine (7.5 ml) and acetic anhydride (63 ml) was heated at 100° C. for 4.5 hours and left to cool to ambient temperature 18 hours. The reaction mixture was poured into ice/water (400 ml) and the resultant precipitate collected by filtration and dried in vacuo. Analysis revealed that hydrolysis of the acetate group on the 4 position of the quinazoline was incomplete. The mixture was therefore treated with water (150 ml) and pyridine (0.5 ml) at 90° C. for 15 minutes. The reaction was cooled and the solid was collected by filtration, washed with water and dried in vacuo to yield 7-(acetoxy)-6-methoxyquinazolin-4-(3H)-one (7.4 g, 76% yield):

reactant | 7-hydroxy-6-methoxyquinazolin-4-(3H)-one | 41.6 mmol, 8.0 g | OC1=C(C=C2C(NC=NC2=C1)=O)OC | C9H8N2O3
reactant | acetic anhydride | 63 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 150 ml | O | H2O
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 7.5 ml | N1=CC=CC=C1 | C5H5N
product | 7-(acetoxy)-6-methoxyquinazolin-4-(3H)-one | 7.4 g, 76% yield | C(C)(=O)OC1=C(C=C2C(NC=NC2=C1)=O)OC | C11H10N2O4
